US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-fluorophenyl)ethyl]amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and 4-fluorophenethylamine. The product was purified by mass directed purification to give the title compound as an orange solid. δH (CD3OD): 2.93 (2H, t), 3.60 (2H, t), 6.97–7.04 (3H, m), 7.24–7.30 (2H, m), 7.65 (1H, s), 8.56 (1H, s); m/z (ES+)=318 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 4-fluorophenethylamine | FC1=CC=C(CCN)C=C1 | C8H10FN
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [2-(4-fluorophenyl)ethyl]amide | FC1=CC=C(C=C1)CCNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C16H13ClFN3O
